US06258975B1
Production of (R)-2-hydroxy-4-phenylbutyric Acid
(R)-2-acetoxy-4-oxo-4-phenylbutyric acid (2.36 g) was dissolved in 15 ml of acetic acid, and 0.21 g of 5% by weight palladium on carbon (water content 50%) were added thereto. The mixture was stirred in a hydrogen atmosphere at 60° C. for 24 hours. Palladium on carbon was separated by filtration, and the solvent was then distilled off. Thirty milliliters of 1−N hydrochloric acid were added to the resulting (R)-2-acetoxy-4-phenylbutyric acid, and the mixture was heat-refluxed for 3 hours while being stirred.

reactant | (R)-2-acetoxy-4-oxo-4-phenylbutyric acid | 2.36 g | C(C)(=O)O[C@@H](C(=O)O)CC(C1=CC=CC=C1)=O | C12H12O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | (R)-2-hydroxy-4-phenylbutyric Acid | O[C@@H](C(=O)O)CCC1=CC=CC=C1 | C10H12O3
